Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Iodinated Contrast- Oral and IV Dye / Sulfa (Sulfonamide 
Antibiotics) / Compazine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presenting with abdominal pain after colonoscopy today.
She had a screening colonoscopy this morning at ___ during 
which
a polypectomy was performed. The procedure was completed at 
10:30
AM and immediately afterward, she began having LUQ and L 
shoulder
pain as well as pain in a band across her abdomen. The pain in
the LUQ was the most severe. Her pain was constant although has
improved now with Tylenol. She has no pain current at rest and
denies back pain. Also had nausea associated with the pain, now
resolved with Zofran. She denies vomiting and has not eaten 
since
before her procedure. Denies F/C. Voided after her procedure. Is
passing flatus. She had a CT scan performed at ___ and was
transferred to the ___ ED.
 
Past Medical History:
PMH - GERD, HTN, sinus tachycardia (with no underlying cardiac
problem), anxiety, depression

PSH - bladder sling yrs ago for urinary incontinence, T&A
 
Social History:
___
Family History:
colon cancer in both grandfathers, maternal and paternal
aunt
 
Physical ___ PE
VS: 98.6, 63, 148/87, 18, 97% RA
Gen - NAD, 
Heart - RRR
Lungs - CTAB
Abd - soft, mildly distended, most tender to palpation in LUQ
although also slightly tender ___ and in R
quadrants, no guarding no rebound 
Extrem - warm, no edema 

Discharge Physical Exam:
VS: 98.8, 133/82, 71, 18, 93 Ra 
Gen: A&O x3. Lying comfortably in bed
Pulm: LS ctab
CV: HRR
Abd: soft, NT/ND
Ext: No edema
 
Pertinent Results:
___ 09:00AM BLOOD WBC-5.8 RBC-3.59* Hgb-11.2 Hct-34.7 
MCV-97 MCH-31.2 MCHC-32.3 RDW-13.7 RDWSD-49.5* Plt ___
___ 08:53PM BLOOD WBC-6.5 RBC-3.68* Hgb-11.5 Hct-35.5 
MCV-97 MCH-31.3 MCHC-32.4 RDW-13.8 RDWSD-49.1* Plt ___
___ 02:43PM BLOOD WBC-10.2* RBC-3.84* Hgb-11.9 Hct-37.6 
MCV-98 MCH-31.0 MCHC-31.6* RDW-13.8 RDWSD-49.8* Plt ___
___ 09:00AM BLOOD Glucose-89 UreaN-5* Creat-0.7 Na-147 
K-4.5 Cl-107 HCO3-29 AnGap-11
___ 02:43PM BLOOD Glucose-100 UreaN-8 Creat-0.7 Na-142 
K-4.3 Cl-102 HCO3-30 AnGap-10

--------
CT A/P w IV contrast at ___
Grade 2 splenic injury with subcapsular hematoma laterally, 
There
is fluid in the pelvis and both adnexa, Multiple small
low-density lesions in the liver that show filling in on delayed
images and are likely hemangiomas. There was no untoward 
reaction
following contrast injection.
 
Brief Hospital Course:
___ with grade 2 splenic injury with subcapsular hematoma caused 
by colonoscopy. She is hemodynamically stable with a hematocrit 
of 38. Her abdomen is soft and mildly tender. There is no active 
extravasation on her CT. The patient was admitted for serial 
hematocrits and close monitoring of her abdominal exam and vital 
signs.

Pain was resolving. Hematocrit was stable, there were no signs 
of bleeding. Diet was progressively advanced as tolerated to a 
regular diet with good tolerability. The patient voided without 
problem. During this hospitalization, the patient ambulated 
early and frequently, was adherent with respiratory toilet and 
incentive spirometry, and actively participated in the plan of 
care. The patient received subcutaneous heparin and venodyne 
boots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs and stable lab work. Abdominal pain was 
very minimal only on deep palpation. The patient was tolerating 
a regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
..

 
Medications on Admission:
protonix 40 BID, zantac 150, fluoxetine 20, metoprolol 10,
vit D 1000
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  FLUoxetine 20 mg PO DAILY  
3.  Metoprolol Tartrate 10 mg PO DAILY  
4.  Pantoprazole 40 mg PO Q12H  
5.  Ranitidine 150 mg PO DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Grade 2 splenic injury with subcapsular hematoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain after getting a 
colonoscopy. A CT scan was done and showed grade 2 splenic 
injury with subcapsular hematoma. You were kept on bedrest with 
close monitoring of your hematocrit level. You blood work and 
vital signs have remained stable. You are now tolerating a 
regular diet and your pain is resolving. You are medically clear 
to go home to continue your recovery. Please note the following 
:

 Liver/ Spleen lacerations:

*AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.
 
*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.
 
*AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.

 
Followup Instructions:
___